US09278940B2
To a solution of (5-(2-((tert-butyldimethylsilyl)oxy)ethoxy)-6-(4-isopropylpiperazin-1-yl)pyridin-2-yl)methanol (1.07 g, 2.61 mmol) in 1,2-dichloroethane (20 mL) under nitrogen was added 2-iodoxybenzoic acid (0.88 g, 3.14 mmol) at rt. The reaction mixture was stirred at 80° C. for 1.5 h. After that time the reaction was cooled to rt and concentrated under reduced pressure. The product was purified by flash column chromatography (silica gel, 95:5 dichloromethane/methanol) to give 5-(2-((tert-butyldimethylsilyl)oxy)ethoxy)-6-(4-isopropylpiperazin-1-yl)picolinaldehyde (0.63 g, 59%) as a brown solid: 1H NMR (400 MHz, CDCl3): δ 9.85 (s, 1H), 7.59 (d, J=8.4 Hz, 1H), 7.17 (d, J=8.0 Hz, 1H), 4.19-4.15 (m, 2H), 4.02-3.88 (m, 6H), 3.56-3.48 (m, 1H), 3.20 (br s, 4H), 1.37 (d, J=6.4 Hz, 6H), 0.90 (s, 9H), 0.09 (s, 6H); ESI MS m/z 408 [M+H]+.

reactant | (5-(2-((tert-butyldimethylsilyl)oxy)ethoxy)-6-(4-isopropylpiperazin-1-yl)pyridin-2-yl)methanol | 2.61 mmol, 1.07 g | [Si](C)(C)(C(C)(C)C)OCCOC=1C=CC(=NC1N1CCN(CC1)C(C)C)CO | C21H39N3O3Si
reactant | 2-iodoxybenzoic acid | 3.14 mmol, 0.88 g | I(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C7H5IO4
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 5-(2-((tert-butyldimethylsilyl)oxy)ethoxy)-6-(4-isopropylpiperazin-1-yl)picolinaldehyde | 0.63 g, 59% | [Si](C)(C)(C(C)(C)C)OCCOC=1C=CC(=NC1N1CCN(CC1)C(C)C)C=O | C21H37N3O3Si
